US04826869
1,5-Dipropyl-2-(3'-ureidobenzyl)pyrrole
A stirred solution of 2 g (7.7 mmol) of 1,5-dipropyl-2-(3'-aminobenzyl)pyrrole in 200 ml of benzene was treated with 1 g (15.3 mmol) of sodium cyanate followed by the dropwise addition, over a 11/2 hour period, of a solution of 1.5 ml (19 mmol) of trifluoroacetic acid in 100 ml of benzene. The reaction mixture was stirred at room temperature for 1 more hour, poured into 300 ml of saturated aqueous sodium carbonate solution and extracted with ethyl acetate (3×300 ml). The combined extracts were washed with water (2×300 ml), dried and evaporated in vacuo. The residue was purified by column chromatography on 100 g of silica gel, using hexane-ethyl acetate (55:45) as eluant, thus obtaining 1.85 g (83%) of the title compound, 1,5-dipropyl-2-(3'-ureidobenzyl)pyrrole, which was recrystallized from acetone-hexane. M.P. 123°-126° C.

reactant | 1,5-dipropyl-2-(3'-aminobenzyl)pyrrole | 7.7 mmol, 2 g | C(CC)N1C(=CC=C1CCC)CC1=CC(=CC=C1)N | C17H24N2
reactant | sodium cyanate | 15.3 mmol, 1 g | [O-]C#N.[Na+]
reactant | trifluoroacetic acid | 19 mmol, 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium carbonate | 300 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1,5-Dipropyl-2-(3'-ureidobenzyl)pyrrole | 1.85 g, 83% | C(CC)N1C(=CC=C1CCC)CC1=CC(=CC=C1)NC(=O)N | C18H25N3O
